US04880809
To a mixture of 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)piperazine (1.2 g), triethylamine (0.5 g) and methylene chloride (20 ml) is added dropwise, with stirring under ice-cooling, a solution of 3,5-dimethoxy-4-ethoxybenzoyl chloride (1.0 g) in methylene chloride (20 ml). The reaction mixture is then stirred for one hour at room temperature, and then poured into ice-water, followed by extraction with methylene chloride. The organic layer is washed with water, dried and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography (hexane:ethyl acetate:acetone=1:2:1) to afford 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,5-dimethoxy-4-ethoxy-benzoyl)piperazine (0.9 g). This product is recrystallized from ethyl acetatehexane to give colorless needles, m.p. 171°-172° C.

reactant | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)piperazine | 1.2 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2CCNCC2)C1)OC | C18H24N2O3
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethoxy-4-ethoxybenzoyl chloride | 1.0 g | COC=1C=C(C(=O)Cl)C=C(C1OCC)OC | C11H13ClO4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,5-dimethoxy-4-ethoxy-benzoyl)piperazine | 0.9 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OCC)OC)=O)C1)OC | C29H36N2O7
